US08198448B2
To a solution of N-ethyl-N-isopropylpropan-2-amine (0.077 ml, 0.44 mmol) and 2-fluoro-4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)benzoyl chloride-HCl (0.088 g, 0.18 mmol) in DCM (1.25 mL) was added 2-methoxyethanamine (0.023 ml, 0.26 mmol) dropwise. The solution was stirred at room temperature for 5 h. The crude material was concentrated and then triturated with sodium bicarbonate and washed with water. The resultant solid was dissolved in DCM/MeOH and concentrated. The crude material was dissolved in DCM/MeOH and was purified via flash chromatography, eluting with 0-10% MeOH/NH4OH in DCM to yield 2-fluoro-N-(2-methoxyethyl)-4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)benzamide.

reactant | N-ethyl-N-isopropylpropan-2-amine | 0.44 mmol, 0.077 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-fluoro-4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)benzoyl chloride-HCl | 0.18 mmol, 0.088 g | Cl.FC1=C(C(=O)Cl)C=CC(=C1)C=1C=CC=2N(C1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC
reactant | 2-methoxyethanamine | 0.26 mmol, 0.023 ml | COCCN | C3H9NO
solvent | DCM | 1.25 mL | C(Cl)Cl | CH2Cl2
product | 2-fluoro-N-(2-methoxyethyl)-4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)benzamide | FC1=C(C(=O)NCCOC)C=CC(=C1)C=1C=CC=2N(C1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC | C27H24FN5O4
